US08461157B2
Step 38a: 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (Compound 0602-115)
The title compound, 0602-115 was prepared (120 mg, 11%) as an oil from 2-amino-5-bromopyrimidine (865 mg, 5.0 mmol) and bis(pinacolato)diboron (2.54 g, 10 mmol), potassium acetate (1.47 g, 15 mmol), and PdCl2(dppf)2 (204 mg, 0.25 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 222 [M+1]+. 1H NMR (400 MHz, DMSO-d6) δ 1.26 (s, 12H), 7.04 (s, 2H), 8.37 (s, 2H).

reactant | 2-amino-5-bromopyrimidine | 5.0 mmol, 865 mg | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | bis(pinacolato)diboron | 10 mmol, 2.54 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15 mmol, 1.47 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | 0.25 mmol, 204 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
